US04730053
S-(2-phenylcarbamoyl-phenylselenyl)-mercaptoacetic acid ethyl ester
Prepared similar to example 1 from 2 g (7,3 mmol) of 2-phenyl-1,2-benzisoselenazole-3(2H)-one and 1 g (8,3 mmol) of mercaptoacetic acid ethyl ester.

reactant | 2-phenyl-1,2-benzisoselenazole-3(2H)-one | 7,3 mmol, 2 g | C1(=CC=CC=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C13H9NOSe
reactant | mercaptoacetic acid ethyl ester | 8,3 mmol, 1 g | C(C)OC(CS)=O | C4H8O2S
product | S-(2-phenylcarbamoyl-phenylselenyl)-mercaptoacetic acid ethyl ester | C(C)OC(CS[Se]C1=C(C=CC=C1)C(NC1=CC=CC=C1)=O)=O | C17H17NO3SSe
